US06548493B1
To a solution of 5,6,9,10,11,12-hexahydro-4H,8H-azepino[4′,5′:4,5]pyrrolo[3,2,1-ij]quinoline (150 mg, 0.65 mmol) in TFA (7.5 mL) was added NaCNBH3 (123 mg, 1.95 mmol) in small portions at 0° C. The reaction mixture was stirred for 1 h. To the reaction mixture was added concentrated HCl (5 mL) and the reaction was heated at reflux for 10 m. The reaction mixture was concentrated in vacuo and basified to pH 14 with 50% NaOH. To this was added 1,4-dioxane (14 mL), and to this solution was added di-tert-butyl dicarbonate (700 mg, 3.2 mmol). The solution was stirred at 20° C. for 16 h. Purification by column chromatography (hexanes:EtOAc 19:1) afforded tert-butyl (±)-5,6,8,9,10,11,12,12a-octahydro-4H,7aH-azepino[4′,5′:4,5]pyrrolo[3,2,1-ij]quinoline-10-carboxylate as a colorless oil.

reactant | 5,6,9,10,11,12-hexahydro-4H,8H-azepino[4′,5′:4,5]pyrrolo[3,2,1-ij]quinoline | 0.65 mmol, 150 mg | C1=CC=C2CCCN3C2=C1C1=C3CCNCC1 | C15H18N2
reactant | NaCNBH3 | 1.95 mmol, 123 mg | [BH3-]C#N.[Na+]
reactant | HCl | 5 mL | Cl | ClH
reactant | di-tert-butyl dicarbonate | 3.2 mmol, 700 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | TFA | 7.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | tert-butyl (±)-5,6,8,9,10,11,12,12a-octahydro-4H,7aH-azepino[4′,5′:4,5]pyrrolo[3,2,1-ij]quinoline-10-carboxylate | C1=CC=C2CCCN3C2=C1C1C3CCN(CC1)C(=O)OC(C)(C)C | C20H28N2O2
